US08138187B2
4-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)butyl acetate hydrochloride, non-polar diastereomer
4-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)butyl acetate (non-polar diastereomer) (234 mg, 0.54 mmol) was dissolved in ethyl acetate (50 ml). Me3SiCl (136 μl, 1.08 mmol) was then added dropwise at RT. The mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (2×5 ml) and then dried. Example 178 (155 mg, m.p. 238-241° C., 61%, NMR purity <95%) was obtained as a white solid.

reactant | 4-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)butyl acetate | 0.54 mmol, 234 mg | C(C)(=O)OCCCCC1=C(NC2=CC=CC=C12)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C28H36N2O2
reactant | Me3SiCl | 1.08 mmol, 136 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)butyl acetate hydrochloride | Cl.C(C)(=O)OCCCCC1=C(NC2=CC=CC=C12)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | InChI=1S/C28H36N2O2.ClH/c1-21(31)32-20-10-9-14-25-24-13-7-8-15-26(24)29-27(25)22-16-18-28(19-17-22,30(2)3)23-11-5-4-6-12-23;/h4-8,11-13,15,22,29H,9-10,14,16-20H2,1-3H3;1H
